US08242280B2
1-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-ethane-1,2-diol (114 mg, 0.232 mmol) was treated with 2 mL trifluoroacetic acid for 5 h. The solution was concentrated and co-evaporated with tetrahydrofuran (2×), then dissolved in ethyl acetate, washed with saturated sodium bicarbonate (1×), brine (1×), and dried over sodium sulfate. The material was purified by preparative HPLC and shown to contain hydroxymethyl attached to the product (28 mg). Therefore, the material was treated with 100 mg PS-trisamine (Argonaut Technologies, Inc.) in tetrahydrofuran at 50° C. for 15 h., filtered and the resin was washed with tetrahydrofuran/methanol and concentrated to afford 1-{3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-ethane-1,2-diol (10.5 mg, 12.5%). 1H-NMR (500 MHz, dimethylsulfoxide-d6) δ 3.45 (t, J=6.0 Hz, 2H), 3.79 (s, 3H), 4.56 (q, J=5 Hz, 1H), 4.67 (t, J=6 Hz, 1H), 5.23 (d, J=4 Hz, 1H), 7.03 (t, J=7.0 Hz, 1H), 7.15 (d, J=8 Hz, 1H), 7.40 (d, J=8.0 Hz, 1H), 7.37 (t, J=7.5 Hz, 1H), 7.40 (t, J=8.5 Hz, 1H), 7.53 (d, J=8.0 Hz, 1H), 7.58 (dd, J=7.5 Hz, J=2.0 Hz, 1H), 7.62 (s, 1H), 8.24 (d, J=2.5 Hz, 1H), 8.75 (d, J=2.5 Hz, 1H).

reactant | 1-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-ethane-1,2-diol | 0.232 mmol, 114 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C=CC2)C(CO)O)COCC[Si](C)(C)C | C27H33N3O4Si
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-ethane-1,2-diol | 10.5 mg, 12.5% | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C=2C=C(C=CC2)C(CO)O | C21H19N3O3
